US04931459
6-Methoxy-3-(phenylmethoxy)-benzo[b]thiophene-2-carboxylic acid
Benzyl alcohol (6.0 mls, 58 mmoles) is added dropwise to a stirred suspension of sodium hydride (2.3 g of a 60% dispersion in mineral oil, 58 mmoles) in tetrahydrofuran (15 mls) under argon. After 20 minutes a solution of 6-methoxy-3-chloro-benzo[b]-thiophene-2-carbonyl chloride (5.0 g, 19 mmoles) in warm tetrahydrofuran (60 mls) is added during 5 minutes, and the mixture is heated under reflux. After 16 hours the mixture is cooled, and stripped of solvent under reduced pressure. The residue is partitioned between water (300 mls) and ether (150 mls). The layers are separated and the aqueous phase extracted twice with ether (100 mls). The combined ether extracts are washed with saturated brine and dried over MgSO4, then stripped of solvent under reduced pressure to leave the crude ester as a syrup which also contains mineral oil. The syrup is stirred in a mixture of methanol (10 mls) and 1N sodium hydroxide (38 mls) and heated under reflux. After four hours heating is discontinued and the methanol is removed under reduced pressure. The residue is diluted with water (300 mls) and extracted twice with ether (100 mls). The aqueous solution is stirred and acidified with concentrated HCl, and the precipitate is filtered off, rinsed with water, and dried. Recrystallization from ethanol gave the pure product (2.1 g): mp=194° C. (dec).

reactant | Benzyl alcohol | 58 mmoles, 6.0 mls | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 6-methoxy-3-chloro-benzo[b]-thiophene-2-carbonyl chloride | 19 mmoles, 5.0 g | COC=1C=CC2=C(SC(=C2Cl)C(=O)Cl)C1 | C10H6Cl2O2S
reactant | tetrahydrofuran | 15 mls | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 60 mls | O1CCCC1 | C4H8O
solvent | methanol | 10 mls | CO | CH4O
solvent | sodium hydroxide | 1N, 38 mls | [OH-].[Na+]
product | 6-Methoxy-3-(phenylmethoxy)-benzo[b]thiophene-2-carboxylic acid | 2.1 g | COC=1C=CC2=C(SC(=C2OCC2=CC=CC=C2)C(=O)O)C1 | C17H14O4S
